US04411753
5-ethyl-5-methyl-4-oxo-2-heptenoic acid
The product of the preparation immediately above was dissolved in 400 ml. of ethanol and brought to a boil. To it was quickly added 40 g. of potassium hydroxide in 360 ml. of water, and the temperature was held at 72° for 2 minutes. The mixture was then poured immediately into 1 liter of ice-water, and 50 g. of sodium chloride was added. The aqueous mixture was extracted with 1000 ml. of diethyl ether, and the aqueous layer was made acid with concentrated hydrochloric acid. It was then extracted 4 times with 500 ml. portions of dichloromethane, and the organic layers were combined, dried over magnesium sulfate and evaporated under vacuum to obtain 20 g. of the desired acid, as a mixture with 5-ethyl-2-hydroxy-5-methyl-4-oxoheptanoic acid, the presence of which was indicated by nuclear magnetic resonance signals, δ 4.35 (q, 1H); 2.6-3.8 (m, 2H).

reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | 5-ethyl-2-hydroxy-5-methyl-4-oxoheptanoic acid | C(C)C(C(CC(C(=O)O)O)=O)(CC)C | C10H18O4
solvent | water | O | H2O
product | 5-ethyl-5-methyl-4-oxo-2-heptenoic acid | C(C)C(C(C=CC(=O)O)=O)(CC)C | C10H16O3
